US08471005B2
[2-Methoxy-4-(1-methyl-piperidin-4-yloxy)-phenyl]-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
Following a procedure analogous to Example 45, 4-(3-Methoxy-4-nitro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (2.9 g) was converted to 4-(3-Methoxy-4-nitro-phenoxy)-piperidine as the trifluoroacetic acid salt (3.0 grams) which was converted, using a procedure analogous to 232a, with formaldehyde to 4-(3-Methoxy-4-nitro-phenoxy)-1-methyl-piperidine (76%), which was converted to 2-Methoxy-4-(1-methyl-piperidin-4-yloxy)-phenylamine (100%) using a procedure analogous to 251b, which was converted, using a 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (100 mg, 0.36 mmol), to the title compound (27 mgs, 16%). H-NMR (CDCl3) δ 8.70 (s, 1H), 8.25 (d, J=10.7 Hz, 1H), 8.03 (d, J=10.7 Hz, 1H), 7.44 (t, J=9.2 Hz, 1H), 7.30 (s, 1H), 7.16-7.02 (m, 3H), 6.85-96.82 (m, 1H), 6.53 (s, 1H), 6.42 (d, J=10.4 Hz, 1H), 4.27 (Broad s, 1H), 3.89 (s, 3H), 3.86 (s, 3H), 2.75-2.69 (m, 2H), 2.33 (s, 3H), 2.33-2.26 (m, 2H), 2.04-1.98 (m, 2H), 1.90-1.81 (m, 2H); LC/MS (ESI+): 460 (M+H).

reactant | 4-(3-Methoxy-4-nitro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 2.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])OC | C17H24N2O6
reactant | 4-(3-Methoxy-4-nitro-phenoxy)-piperidine | COC=1C=C(OC2CCNCC2)C=CC1[N+](=O)[O-] | C12H16N2O4
reactant | trifluoroacetic acid | 3.0 grams | FC(C(=O)O)(F)F | C2HF3O2
reactant | formaldehyde | C=O | CH2O
reactant | 4-(3-Methoxy-4-nitro-phenoxy)-1-methyl-piperidine | COC=1C=C(OC2CCN(CC2)C)C=CC1[N+](=O)[O-] | C13H18N2O4
reactant | 2-Methoxy-4-(1-methyl-piperidin-4-yloxy)-phenylamine | COC1=C(C=CC(=C1)OC1CCN(CC1)C)N | C13H20N2O2
reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.36 mmol, 100 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
product | [2-Methoxy-4-(1-methyl-piperidin-4-yloxy)-phenyl]-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | 27 mgs, 16% | COC1=C(C=CC(=C1)OC1CCN(CC1)C)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C26H29N5O3
